US06753322B2
Methyl 9-{(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-[(acetyloxy)methyl]tetrahydro-2-furanyl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
A suspension of methyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 7) (1.5 g, 4.02 mmol) in 1,1,1-trichloroethane (40 ml) was treated with N,O-bis(trimethylsilyl)acetamide (4.8 ml, 19.6 mmol). The mixture was heated under reflux for two hours. The solution was allowed to cool to room temperature and the solvent removed under reduced pressure. The residue was taken up in anhydrous toluene (40 ml) and 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose (1.65 g, 5.19 mmol) and trimethylsilyl trifluoromethanesulfonate (0.98 ml, 5.43 mmol) added. The resulting solution was heated under reflux under a nitrogen atmosphere for 3 hours. The mixture was cooled to room temperature, diluted with ethyl acetate (200 ml) and washed with a saturated aqueous solution of sodium hydrogen carbonate. The organic layer was separated, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel using gradient elution with ethyl acetate:pentane (70:30, by volume) then ethyl acetate:pentane (80:20, by volume) then ethyl acetate to afford the title compound as a foam (2.05 g).

reactant | methyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 4.02 mmol, 1.5 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)OC)C1=CC=CC=C1 | C21H19N5O2
reactant | N,O-bis(trimethylsilyl)acetamide | 19.6 mmol, 4.8 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | 5.19 mmol, 1.65 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | trimethylsilyl trifluoromethanesulfonate | 5.43 mmol, 0.98 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | 1,1,1-trichloroethane | 40 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 9-{(2R,3R,4R,5R)-3,4-bis(acetyloxy)-5-[(acetyloxy)methyl]tetrahydro-2-furanyl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 2.05 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C32H33N5O9
